US06531474B1
Preparation of 4-Acetylamino-3-chlorobenzoic Acid
To a solution of 4-amino-3-chloro-benzoic Acid (10.0 g, 58.3 mmol) in anhydrous THF (100 mL) was added acetyl chloride (20.7 ml, 291.1 mmol) and the solution stirred at room temperature for 48 hours. The solvent was evaporated and the product precipitated from hexanes then filtered and dried to give a white solid (11.73 g, 94% yield). 1H-NMR (500 MHz, CD3OD) δ 2.28 (s, 3H), 7.92 (dd, 1H), 7.99-8.16 (m, 2H). Analytical HPLC (cyano column) 7.84 min.

reactant | 4-amino-3-chloro-benzoic Acid | 58.3 mmol, 10.0 g | NC1=C(C=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | acetyl chloride | 291.1 mmol, 20.7 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Acetylamino-3-chlorobenzoic Acid | 11.73 g, 94% yield | C(C)(=O)NC1=C(C=C(C(=O)O)C=C1)Cl | C9H8ClNO3
